US07012066B2
To Boc-norvalinol (7.77 g, 38 mmol), in anhydrous dimethylsulfoxide (153 mL) and toluene (153 mL) was added EDC (73.32 g, 382 mmol). After the solution was cooled to 0° C., dichloroacetic acid (15.8 mL, 191 mmol) was added dropwise. After addition was complete, the reaction was stirred for 15 min. The solution was allowed to warm to room temperature over a period of 2 h. The reaction mixture was concentrated to remove the toluene, then dissolved in ethyl acetate. The solution was washed successively with 1N sodium bisulfate, saturated sodium bicarbonate and brine, dried over sodium sulfate, filtered and concentrated to afford crude Boc-norvalinal which was used directly in the next step. TLC Rf=0.84 (40% ethyl acetate/hexanes). Step 3. Synthesis of Boc-nVal-(CHOH)-Gly-OEt:

reactant | Boc-norvalinol | 38 mmol, 7.77 g | C(=O)(OC(C)(C)C)N[C@@H](CCC)CO | C10H21NO3
reactant | toluene | 153 mL | C1(=CC=CC=C1)C | C7H8
reactant | EDC | 382 mmol, 73.32 g
reactant | dichloroacetic acid | 191 mmol, 15.8 mL | ClC(C(=O)O)Cl | C2H2Cl2O2
solvent | dimethylsulfoxide | 153 mL | CS(=O)C | C2H6OS
product | Boc-norvalinal | C(=O)(OC(C)(C)C)N[C@@H](CCC)C=O | C10H19NO3
